US05556969
Step 1: 3(R,S)-[(Benzyloxycarbonyl)amino]-5-cycloheptyl-1,3-dihydro-1-(2-methylpropyl)-2H-1,4-benzodiazepin-2-one
To a solution of 3(R,S)-[(benzyloxycarbonyl)amino]-5-cycloheptyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one (1.26 g) at 0° C., under an atmosphere of nitrogen, was added sodium hydride (125 mg of a 50% dispersion in mineral oil). After stirring for 1 h at 0° C. 2-methylpropyl iodide (399 μl) was added and the mixture allowed to warm to ambient temperature over 3 h. More sodium hydride (16 mg of a 50% dispersion in mineral oil) followed by 2-methylpropyl iodide (40 μl) was added and the solution stirred at room temperature for 18 h. More sodium hydride (103 mg of a 50% dispersion in mineral oil) followed by 2-methylpropyl iodide (210 μl) was added and the solution stirred for 4 h at room temperature. The solvent was then evaporated in vacuo and the residue partitioned between dichloromethane (30 ml) and water (30 ml). The organic phase was separated and the aqueous layer washed further with dichloromethane (3×20 ml). The combined organic layers were washed with brine (20 ml), dried (MgSO4) and evaporated under reduced pressure. The residue was azeotroped with toluene (2×20 ml), then chromatographed on silica gel using 4:1 petrol:ethyl acetate as the eluant. The product was isolated as a viscous oil which solidified on addition of petrol:ethyl acetate (4:1) (20 ml). After evaporation of the solvent the resultant solid was triturated with petrol (60/80) and the title compound (830 mg) isolated as a white solid. 1H NMR (360 MHz, CDCl3) δ 0.73 (3H, d, J=6.6 Hz), 0.79 (3H, d, J=6.6 Hz), 1.43-1.83 (12H, m), 2.06-2.20 (1H, m), 2.94-3.06 (1H, m), 3.43 (1H, dd, J=13.8 and 5 Hz), 4.27 (1H, dd, J=13.8 and 9.3 Hz), 5.10 (3H, m), 6.56 (1H, d, J=8.2 Hz), 7.24=7.35 (7H, m), 7.49 (1H, dd, J=8.4 and 8.4 Hz), 7.58 (1H, d, J=7.9 Hz). MS (CI, NH3) 462 (M+).

reactant | 3(R,S)-[(benzyloxycarbonyl)amino]-5-cycloheptyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 1.26 g | C(C1=CC=CC=C1)OC(=O)NC1C(NC2=C(C(=N1)C1CCCCCC1)C=CC=C2)=O | C24H27N3O3
reactant | sodium hydride | [H-].[Na+]
reactant | 2-methylpropyl iodide | 399 μl | CC(CI)C | C4H9I
reactant | 2-methylpropyl iodide | 40 μl | CC(CI)C | C4H9I
reactant | 2-methylpropyl iodide | 210 μl | CC(CI)C | C4H9I
product | 3(R,S)-[(Benzyloxycarbonyl)amino]-5-cycloheptyl-1,3-dihydro-1-(2-methylpropyl)-2H-1,4-benzodiazepin-2-one | 830 mg | C(C1=CC=CC=C1)OC(=O)NC1C(N(C2=C(C(=N1)C1CCCCCC1)C=CC=C2)CC(C)C)=O | C28H35N3O3
